US04459150
Allylpentafluorobenzene [41.6 g; described by Harper et al, J. Org. Chem., 29, 2385 (1964)] was added to a solution of hydrazine hydrate (100 ml) in ethanol (150 ml) and the mixture was heated at reflux for 24 hours. The solid precipitate which formed was collected by filtration and washed with ethanol and hexane to give 4-allyl-2,3,5,6-tetrafluorophenylhydrazine (18.8 g), m.p. 82°-84° C., in the form of colourless crystals. The filtrate was evaporated to dryness and the yellow solid thus obtained was washed with ethanol and hexane to give a further quantity (22.0 g) of 4-allyl-2,3,5,6-tetrafluorophenylhydrazine, m.p. 79°-81° C., in the form of a cream-coloured solid.

reactant | Allylpentafluorobenzene | 41.6 g | C(C=C)C1=C(C(=C(C(=C1F)F)F)F)F | C9H5F5
reactant | hydrazine hydrate | 100 ml | O.NN
solvent | ethanol | 150 ml | C(C)O | C2H6O
product | 4-allyl-2,3,5,6-tetrafluorophenylhydrazine | 18.8 g | C(C=C)C1=C(C(=C(C(=C1F)F)NN)F)F | C9H8F4N2
